US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-(1-phenyl-1H-tetrazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a stirred solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, in 0.7 mL of DMF was added N-phenyl-5-chlorotetrazole (25 mg, 0.14 mmol) and 19 mg of K2CO3. The resulting red solution was heated at 80° C. for 4 days and, upon cooling to room temp, the mixture was diluted with 50 mL of ethyl acetate and 50 mL of 1N HCl. The layers were extracted, and the organic layer was washed with 50 mL of saturated aqueous NaCl. The organic layer was dried over MgSO4, filtered and evaporated to an orange solid. The material was purified via silica gel column chromatography followed by reverse phase HPLC to give the title compound, 7,8-bis(4-chlorophenyl)-2-(1-phenyl-1H-tetrazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (7 mg, 10%) yield as a yellow solid. LCMS Anal. Calc'd for C24H14Cl2N8O, 500.07, [M+H] 501 observed; 1H NMR (400 MHz, CD3CN) δ 8.30 (s, 1H), 7.69-7.55 (m, 5H), 7.39 (dt, 2H, J=2.1, 6.6 Hz), 7.28 (dt, 2H, J=1.9, 8.6 Hz), 7.23 (dt, 2H, J=2.2, 8.6 Hz), 7.06 (dt, 2H, J=2.1, 8.7 Hz).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | N-phenyl-5-chlorotetrazole | 0.14 mmol, 25 mg | C1(=CC=CC=C1)N1N=NN=C1Cl | C7H5ClN4
reactant | K2CO3 | 19 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N, 50 mL | Cl | ClH
product | 7,8-bis(4-chlorophenyl)-2-(1-phenyl-1H-tetrazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 7 mg, 10% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C2=NN=NN2C2=CC=CC=C2)=O)C2=CC=C(C=C2)Cl | C24H14Cl2N8O
